US07084160B2
A mixture of 6-thioureido-nicotinic acid (197 mg, 1 mmol), 2-bromomalonaldehyde (166 mg, 1.1 mmol) and sodium acetate (100 mg) in acetic acid (2 mL) was stirred at 100° C. for 20 min. The mixture was then cooled to RT, diluted with water and the precipitates were collected. The solid was washed with water, then methanol and dried in vacuo to afford 6-(5-formyl-thiazol-2-ylamino)-nicotinic acid, (240 mg, 96%). MS m/z 250 (M+H)+. 1H NMR (DMSO-d6) δ 12.7 (s, 1 H), 9.12 (s, 1 H), 8.92 (s, 1 H), 8.38 (s, 1 H), 8.24 (d, 1 H, J=5.6 Hz), 7.21 (d, 1 H, J=5.6 Hz). 13C NMR (DMSO-d6) δ 183.5, 166.0, 165.1, 153.3, 151.5, 148.8, 139.1, 131.2, 120.3, 110.0.

reactant | 6-thioureido-nicotinic acid | 1 mmol, 197 mg | N(C(=S)N)C1=NC=C(C(=O)O)C=C1 | C7H7N3O2S
reactant | 2-bromomalonaldehyde | 1.1 mmol, 166 mg | BrC(C=O)C=O | C3H3BrO2
reactant | sodium acetate | 100 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-(5-formyl-thiazol-2-ylamino)-nicotinic acid | 240 mg, 96% | C(=O)C1=CN=C(S1)NC1=NC=C(C(=O)O)C=C1 | C10H7N3O3S
